US09370522B2
The ester product was obtained via a Suzuki coupling reaction using the method previously shown in Example 13, Step 6, with methyl 3-chloro-2-phenylquinoxaline-6-carboxylate (100 mg, 0.34 mmol, 1.00 equiv) and 4-ethoxyphenylboronic acid (61 mg, 0.37 mmol, 1.10 equiv) As reactants. Purification via silica gel column (ethyl acetate/petroleum ether (1:5)) yielded 55 mg (43%) of methyl 3-(4-ethoxyphenyl)-2-phenylquinoxaline-6-carboxylate as a yellow powder.

reactant | methyl 3-chloro-2-phenylquinoxaline-6-carboxylate | 0.34 mmol, 100 mg, 1.00 equiv | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11ClN2O2
reactant | 4-ethoxyphenylboronic acid | 0.37 mmol, 61 mg, 1.10 equiv | C(C)OC1=CC=C(C=C1)B(O)O | C8H11BO3
product | methyl 3-(4-ethoxyphenyl)-2-phenylquinoxaline-6-carboxylate | 55 mg, 43% | C(C)OC1=CC=C(C=C1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C24H20N2O3
